US07452911B2
3.10b 5-(4-chloro-phenyl)-2-[2-chloro-4-(2-pyrrolidin-1-yl-ethoxy)-phenylethynyl]-pyridine
Under an argon atmosphere 0.13 mL (1.00 mmol) triethylamine, 22 mg (0.02 mmol) tetrakis-triphenylphosphane-palladium and 3.7 mg (0.02 mmol) CuI are added successively to a solution of 80 mg (0.37 mmol) 5-(4-chloro-phenyl)-2-ethynyl-pyridine and 114 mg (0.37 mmol) 1-[2-(4-bromo-3-chloro-phenoxy)-ethyl]-pyrrolidine in 3.0 mL DMF. The mixture is stirred for 15 min at 100° C. and at 200 W in the microwave. The reaction solution is diluted with 40 mL EtOAc, washed twice with semisaturated NaHCO3 solution and the organic phase is dried over MgSO4. The solvent is eliminated i.vac. and the residue is triturated with tert-butylmethylether. The solvent is eliminated i.vac. and further purification is carried out by column chromatography with HPLC-MS.

reactant | triethylamine | 1.00 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.37 mmol, 80 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
reactant | 1-[2-(4-bromo-3-chloro-phenoxy)-ethyl]-pyrrolidine | 0.37 mmol, 114 mg | BrC1=C(C=C(OCCN2CCCC2)C=C1)Cl | C12H15BrClNO
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
catalyst | CuI | 0.02 mmol, 3.7 mg | [Cu]I
product | 5-(4-chloro-phenyl)-2-[2-chloro-4-(2-pyrrolidin-1-yl-ethoxy)-phenylethynyl]-pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=C(C=C(C=C1)OCCN1CCCC1)Cl | C25H22Cl2N2O
